US09353107B2
Step-ii 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperidin-4-yl)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperidine-1-carboxylate (96 mg, 0.173 mmol) was deprotected in methanol/HCl in dioxane (5/5 ml) to afford 49 mg (63% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 9.178-9.170 (d, 1H), 8.78-8.74 (dd, 1H), 8.71-8.66 (dd, 2H), 8.26 (s, 1H), 7.99 (s, 1H), 7.95-7.92 (d, 1H), 7.77 (s, 1H), 7.40-7.31 (q, 1H), 7.10-7.08 (d, 1H), 7.03-6.96 (m, 2H), 5.42 (s, 2H), 3.63-3.59 (d, 2H), 3.55-3.40 (m, 1H), 3.30-3.19 (m, 2H), 2.32-2.08 (m, 4H). MS: m/z=453.5 (M+1), HPLC: 93.40% in method A.

reactant | tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperidine-1-carboxylate | 0.173 mmol, 96 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=NC3)C3CCN(CC3)C(=O)OC(C)(C)C)C=CC1 | C32H33FN6O2
solvent | methanol HCl | CO.Cl
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperidin-4-yl)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine | 49 mg, 63% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=NC(=CC3)C3CCNCC3)C=CC1 | C27H25FN6
